US05162524
Embodiment a: A solution of diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-trifluoromethanesulfonyloxy-2-butenoate (XVa, 0.300 g, 0.00036 mole) in dry tetrahydrofuran (3 mL) was treated with triethylamine (0.077 mL, 0.00036 mole) for 1 h at room temperature. Reverse-phase chromatography (C-18 column, eluting with 65% acetonitrile - 35% of 0.01M phosphate pH 6.5 buffer) showed complete consumption of the starting material after 45 min with formation of a single, faster-eluting product. 0.05M sulfuric acid and ethyl acetate was added to the reaction mixture, followed by separating the two phases. The organic phase was dried with sodium sulfate and evaporated to give 0.245g of diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-2,3-butadienoate (Ia) as a colorless foam (quantitative yield).

reactant | diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-trifluoromethanesulfonyloxy-2-butenoate | 0.00036 mole, 0.300 g | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)OS(=O)(=O)C(F)(F)F)=O)NC(COC1=CC=CC=C1)=O)C | C36H31F3N2O10S3
reactant | triethylamine | 0.00036 mole, 0.077 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-2,3-butadienoate | 0.245g, quantitative yield | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C=C)=O)NC(COC1=CC=CC=C1)=O)C | C35H30N2O7S2
